** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/AO3X1.sch
.subckt AO3X1 Y A B C
*.PININFO Y:O A:I B:I C:I
x1 net1 A B C VDD VSS AOI3X1
x2 Y net1 VDD VSS INVX1
.ends

* expanding   symbol:  AOI3X1.sym # of pins=4
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/AOI3X1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/AOI3X1.sch
.subckt AOI3X1 YN A B C VDD VSS
*.PININFO YN:O A:I B:I C:I
x1 net1 A B VDD VSS NAND2X1
x2 YN net1 C VDD VSS NOR2X1
.ends


* expanding   symbol:  INVX1.sym # of pins=2
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/INVX1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/INVX1.sch
.subckt INVX1 Y A VDD VSS
*.PININFO Y:O A:I
XM1 Y A VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends


* expanding   symbol:  NAND2X1.sym # of pins=3
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NAND2X1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NAND2X1.sch
.subckt NAND2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
XM1 Y A VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM5 Y B net1 VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y B VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 net1 A VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  NOR2X1.sym # of pins=3
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NOR2X1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NOR2X1.sch
.subckt NOR2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
XM1 Y A VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 Y B VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y B net1 VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends

.subckt NMOS d g s b
.ends

.subckt NMOS_LVT d g s b
.ends

.subckt PMOS d g s b
.ends

.subckt PMOS_HVT d g s b
.ends
.end
