** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/OR2X1.sch
.subckt OR2X1 Y A B
*.PININFO Y:O A:I B:I
x1 net1 A B VDD VSS NOR2X1
x2 Y net1 VDD VSS INVX1
.ends

* expanding   symbol:  NOR2X1.sym # of pins=3
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NOR2X1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/NOR2X1.sch
.subckt NOR2X1 Y A B VDD VSS
*.PININFO Y:O A:I B:I
XM1 Y A VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 A VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
XM3 Y B VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 Y B net1 VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends


* expanding   symbol:  INVX1.sym # of pins=2
** sym_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/INVX1.sym
** sch_path: /home/zwils11/Documents/OSU_SKY130_FLOW/layout/xschem/sky130_rhbd/INVX1.sch
.subckt INVX1 Y A VDD VSS
*.PININFO Y:O A:I
XM1 Y A VSS VSS NMOS L=0.15 W=3 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 Y A VDD VDD PMOS L=0.15 W=2 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2
.ends

.subckt NMOS d g s b
.ends

.subckt NMOS_LVT d g s b
.ends

.subckt PMOS d g s b
.ends

.subckt PMOS_HVT d g s b
.ends
.end
